US04400509
1-trimethylsilyloxyhexane
5.10 g (50 mmoles) of 1-hexanol were mixed with the catalysts mentioned in the following table, heated in an oil bath of 130° C. and 7.8 ml (37.5 mmoles) of hexamethyldisilazane were added. The time (t) in which half the theoretical amount of ammonia was evolved was measured. Further details are found in the following table.

reactant | 1-hexanol | 50 mmoles, 5.10 g | C(CCCCC)O | C6H14O
reactant | hexamethyldisilazane | 37.5 mmoles, 7.8 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonia | N | H3N
product | 1-trimethylsilyloxyhexane | C[Si](OCCCCCC)(C)C | C9H22OSi
